### PR TITLE
add bitblasting test

### PR DESCRIPTION
**Pull request by luisacicolini**
We add to unittest the tests for the bitblastability of the `LLVM.Int` type. 
The tests come from [lean-mlir](https://github.com/opencompl/lean-mlir/blob/main/SSA/Projects/InstCombine/AliveStatements.lean) and are instantiated for bitvectors of width 64.

We also introduce a simp set `llvm_toBitVec`, aimed at unfolding the semantics of `LLVM.Int` operations to bitblastable ones - a call to this simp set + a call to bv_decide should suffice to solve all lemmas on fixed-width `LLVM.Int` bitblastable operations.

### CODE REVIEW

File: UnitTest/Bitblasting/Bitblasting.lean [hunk 1]
```diff
@@ -0,0 +1,471 @@
...
+
+  We exclude the tests comprising unsupported operations, such as `neg` and `not`.
+-/
+
+/-- We introduce a tactic to automatically prove all the lemmas. -/
+macro "llvm_bv_decide" : tactic =>
+  `(tactic| ((try simp [llvm_toBitVec]; try bv_decide); all_goals sorry))
+
+open Veir.Data.LLVM
+namespace Veir.Data.Int
```
Comment (tobiasgrosser) [inline UnitTest/Bitblasting/Bitblasting.lean]: I think this is the wrong namespace? Maybe this should be a unit-testing or anonymous namespace.

Comment (luisacicolini) [reply UnitTest/Bitblasting/Bitblasting.lean]: removed namespaces

File: UnitTest/Bitblasting/Bitblasting.lean [hunk 2]
```diff
@@ -0,0 +1,469 @@
+import Veir.Data.LLVM.Int.Basic
+import Veir.Data.LLVM.Int.Simp
+import Veir.Data.Refinement
+
+/-!
+  This file contains some of the `InstCombine` tests retrieved from Lean-MLIR,
+  instantiated for integers with width `64`:
+  https://github.com/opencompl/lean-mlir/blob/main/SSA/Projects/InstCombine/AliveStatements.lean
```
Comment (math-fehr) [inline UnitTest/Bitblasting/Bitblasting.lean]: Can you use a permalink for this?
If lean-mlir gets updated, this link will lead to a 404

**Review by math-fehr — APPROVED** [review]
Just reviewed for style, but it makes sense to me!

**Review by tobiasgrosser — APPROVED** [review]
Nice.

We should merge https://github.com/opencompl/veir/pull/511 first. You may then want to add `set_option warn.sorry false in` to silence the noisy sorries.

File: UnitTest/Bitblasting/Bitblasting.lean [hunk 3]
```diff
@@ -0,0 +1,469 @@
...
+
+  We exclude the tests comprising unsupported operations, such as `neg` and `not`.
+-/
+
+/-- We introduce a tactic to automatically prove all the lemmas. -/
+macro "llvm_bv_decide" : tactic =>
+  `(tactic| ((try simp [llvm_toBitVec]; try bv_decide); all_goals sorry))
+
```
Comment (tobiasgrosser) [inline UnitTest/Bitblasting/Bitblasting.lean:18]: You probably want to add:

`open Veir.Data.LLVM.Int`

such that the theorems below are easier to read.

File: UnitTest/Bitblasting/Bitblasting.lean [hunk 4]
```diff
@@ -0,0 +1,469 @@
...
+/-
+  `LLVM.not` is not supported in
+
+  theorem bv_AddSub_1043 :
+    ∀ (e e_1 e_2 : Veir.Data.LLVM.Int 64),
+      Veir.Data.LLVM.Int.add (Veir.Data.LLVM.Int.add (Veir.Data.LLVM.Int.xor (Veir.Data.LLVM.Int.and e_1 e) e) (Veir.Data.LLVM.Int.constant 64 1)) e_2 ⊑ Veir.Data.LLVM.Int.sub e_2 (Veir.Data.LLVM.Int.or e_1 (Veir.Data.LLVM.Int.not e)) := by
+-/
+
+theorem bv_AddSub_1152 :
+    ∀ (e e_1 : Veir.Data.LLVM.Int 1), Veir.Data.LLVM.Int.add e_1 e ⊑ Veir.Data.LLVM.Int.xor e_1 e := by
```
Comment (tobiasgrosser) [inline UnitTest/Bitblasting/Bitblasting.lean]: This could be:


```suggestion
    ∀ (e e_1 : Veir.Data.LLVM.Int 1), add e_1 e ⊑ xor e_1 e := by
```

**Review by tobiasgrosser — APPROVED** [review]

**Comment by tobiasgrosser** [comment]
Just some minor nits. Feel free to merge after addressing the comments.

File: UnitTest/Bitblasting/Bitblasting.lean (hunk 2 above)
Comment (luisacicolini) [reply UnitTest/Bitblasting/Bitblasting.lean]: permalinked

File: UnitTest/Bitblasting/Bitblasting.lean (hunk 3 above)
Comment (luisacicolini) [reply UnitTest/Bitblasting/Bitblasting.lean:18]: added

**Comment by luisacicolini** [comment]
polished and replaced theorems with `example`, for consistency with [Lean's tests ](https://github.com/leanprover/lean4/blob/master/tests/elab/bv_decide_rewriter.lean). Will merge once CI passes.
